reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7]>>[C:1]([C:3](=[C:2])[C:4]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7],59.7315067220321
[O:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C@@:6]1([H:10])[C-:4]=[O+:5]1>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[C@@:4]2([H:9])[O:5][C@@:6]12[H:10],40.8222546149875
[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[C@:3]([O:4][H:13])([H:12])[C:5][N:6]1[H:7]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],59.1028348590272
[C:1]([C:2](=[O:3])[H:11])([H:8])([H:9])[H:10].[C:4](=[O:5])([H:13])[H:14].[C:6](=[O:7])([H:12])[H:15]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],56.93347432014693
[C:1]([C:2]#[C:3][C:4](=[O:5])[H:9])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C+:3]=[C:4]([O-:5])[H:9])[H:7])([H:6])[H:8],74.383378864939
[C:2]([C:3](=[O:4])[H:8])([H:6])([H:7])[H:9].[O:1]([H:5])[H:10]>>[O:1]([C:2]([C:3]([O:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5],79.46361420015445
[C:1]([O+:2]=[C-:3][H:10])([H:7])([H:8])[H:9].[C:4]([C:5]#[N:6])([H:11])([H:12])[H:13]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],28.518622849673505
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1]1([H:7])[C@@:2]([O:6][C:5](=[C:4]([H:9])[H:10])[H:11])([H:8])[O:3]1,111.88011995061301
[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[C:4]=[N:5][C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],72.779204691903
[C:1]([H:7])([H:8])([H:9])[H:12].[C:2](=[N+:3]=[C-:4][O:5][C:6]([H:13])([H:14])[H:15])([H:10])[H:11]>>[C:1]([C:2](/[N:3]=[C:4](/[O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],35.48348649897599
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1]=[C:2]([C:3]([O:4][H:7])([H:8])[H:9])[C:5]#[C:6][H:10],39.0181995828358
[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]=[C:3]=[C:4]([O:5][H:9])[C:6]#[C:7][H:11])([H:8])[H:10],59.9243358327675
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[C:3](=[C:4]([H:13])[H:14])([H:11])[H:12].[N:1](=[C:2](\[C:6]#[N:7])[H:10])\[H:8].[O:5]([H:9])[H:15],76.1199731291235
[C:1]([H:8])([H:9])([H:10])[H:13].[C:2](\[O:3][H:12])(=[C:4](\[O:5][C:6](=[O:7])[H:15])[H:14])[H:11]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],66.5389603553069
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3]([O:4][H:9])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14],117.722177289163
[N:1](=[C:2]1\[O:3][C@:4]2([H:9])[O:5][C@@:6]1([H:10])[O:7]2)\[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],20.672440958830798
[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7]>>[O-:1][C:2](=[C:3]=[O+:4][C:5](=[O:6])[H:8])[H:7],57.6996106927759
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([H:14])[H:15])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:16])[H:17].[H:10][H:18]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],43.19843229370269
[C:1]([O:2][C:3](=[O:4])[C:6]([C:5](=[O:7])[H:11])([H:12])[H:14])([H:8])([H:9])[H:10].[H:13][H:15]>>[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10],88.96699541122929
[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:13].[C:2](\[O:3][H:12])(=[C:4](\[O:5][C:6](=[O:7])[H:15])[H:14])[H:11],84.4104189489868
[C:1](/[C:2](=[N:3]\[O:4][H:10])[C:5]#[C:6][H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]=[O:4])=[C:5]=[C:6]([H:10])[H:11])([H:7])([H:8])[H:9],93.59345995188991
[C:1]([C:6](=[C:5]=[C:2]([C:3]([H:10])([H:11])[H:12])[O:4][H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[C:6][H:14])([H:7])([H:8])[H:9],96.82167825929152
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])(/[C:4](=[C:5](/[C:6]([H:18])([H:19])[H:20])[O:7][H:21])[H:15])[H:11])([H:8])([H:9])[H:10].[H:16][H:17],103.82810568873
[C:1]([C:2][C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])([H:8])([H:9])[H:10].[O:3]([H:11])[H:12]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],4.5732667414669095
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[H:17])([H:7])([H:8])[H:9].[C:5]([O:6][H:18])[H:16]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]([O:6][H:18])([H:16])[H:17])([H:7])([H:8])[H:9],15.64815228289271
[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7]>>[O:1]=[C:2]([C:3](=[C:4])[C:5]#[C:6][H:8])[H:7],52.924378448064786
